US04526890
The 6-chloro-7,8,9,10-tetrahydro-3-methyl-7,10-methano(1,2,4)triazolo[3,4-a]phthalazine (4.5 grams, 0.019 mol) was mixed with 25 milliliters of morpholine and the mixture heated at boiling under reflux for eight hours. The reaction mixture was concentrated and partitioned between methylene chloride and water. The organic layer was collected, dried over sodium sulfate and evaporated to dryness to yield 4.4 grams (80.6% yield) of 7,8,9,10-tetrahydro-3-methyl-6-(4-morpholinyl)-7,10-methano(1,2,4)triazolo[3,4-a]phthalazine. After recrystallization from benzene-hexane the product was found to melt at 166°-168° C. Infrared analysis and nuclear magnetic resonance analysis confirmed the assigned structure, as did elemental analysis. Calculated for C15H19N5O: C, 63.14; H, 6.71; N, 24.55. Found: C, 63.20; H, 6.71; N, 24.32.

reactant | 6-chloro-7,8,9,10-tetrahydro-3-methyl-7,10-methano(1,2,4)triazolo[3,4-a]phthalazine | 0.019 mol, 4.5 grams | ClC1=NN2C(C=3C4CCC(C13)C4)=NN=C2C | C11H11ClN4
reactant | morpholine | 25 milliliters | N1CCOCC1 | C4H9NO
product | 7,8,9,10-tetrahydro-3-methyl-6-(4-morpholinyl)-7,10-methano(1,2,4)triazolo[3,4-a]phthalazine | 4.4 grams, 80.6% yield | CC1=NN=C2N1N=C(C=1C3CCC(C21)C3)N3CCOCC3 | C15H19N5O
